US05245034
N-Cinnamyl-1,2-Phenylenediamine
3.24 g of ortho-phenylenediamine was dissolved in 30 ml of dimithylformaide, to the solution were added 2.07 g of potassium carbonate and 1.52 g of cinnamyl chloride, and the mixture was stirred overnight at a room temperature. After adding 100 ml of water, the reaction mixture was extracted twice with 100 ml and 50 ml of chloroform, and the extract was washed with a saturated sodium chloride aqueous solution, dried over magnesium sulfate and evaporated to remove the solvent under a reduced pressure The resulting residue was applied to a silica gel column and eluted with chloroform, to obtain 2.0 g of the title compound as light brown crystals.

reactant | ortho-phenylenediamine | 3.24 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | cinnamyl chloride | 1.52 g | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
solvent | water | 100 ml | O | H2O
product | N-Cinnamyl-1,2-Phenylenediamine | 2.0 g | C(C=CC1=CC=CC=C1)NC1=C(C=CC=C1)N | C15H16N2
